2190-12-20 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   STEMI
   24 Hour Events:
   Pt had fever of 101.4 yesterday evening, with rigors.  Broke with
   APAP.  Pan cultured, CXR negative for infiltrate.  Post cath check ok,
   warm Les with dopplerable pulses.  Started on Nitro gtt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2190-12-19**] 04:45 PM
   Other medications:
   Isosorbide 30mg daily
   Simvastatin 80mg daily
   SSI
   Mirtazepine 15mg qHS
   Tolerodine 2mg qHS (held)
   Ambien 10mg (held)
   Ferrous sulfate 325mg daily (first dose tod)
   Prednisone 7.5mg daily
   Plavix 75mg
   ASA 325mg
   Ropinirole 1mg qPM
   Fluticasone
   Nortrypline 25mg qHS
   Donepezil 5mg qHS
   Lopressor 25mg [**Hospital1 **]
   Nitro gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-20**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100
   HR: 74 (64 - 106) bpm
   BP: 118/59(73) {74/43(63) - 152/110(121)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  2,125 mL
                  PO:
                  TF:
   IVF:
                                                                  2,125 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,000 mL
   Urine:
                                                                    900 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,225 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GENERAL: Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink
   NECK: Supple with no JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Anteriolateral CTAB
   ABDOMEN: Soft, NT/ND, obese.
   EXTREMITIES: No c/c/e. Bilateral BKA. distal stumps warm.
   PULSES:
   Right: Carotid 2+ Femoral deferred
   Left: Carotid 2+ Femoral 2+
   Labs / Radiology
   199 K/uL
   13.8 g/dL
   134 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   22 mg/dL
   102 mEq/L
   141 mEq/L
   41.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2190-12-19**]  05:01 PM
                            [**2190-12-20**]  04:56 AM
   WBC
   6.9
   Hct
   41.7
   Plt
   235
   199
   Cr
   1.3
   1.5
   Glucose
   180
   134
   Other labs: PT / PTT / INR:21.3//2.0, CK / CKMB / Troponin-T:318/37/,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 yo male with h/o 3V CABG, s/p balloon angioplasty to OM1 [**4-3**], DM,
   PVD s/p bilateral BKA presents with chest pain and <1mm STEMI in septal
   leads found to have occluded SVG-LAD now s/p 5 BMS.
   .
   # STEMI:  Patient presented with 1mm ST elevation in septal leads at
   OSH.  In cath lab, SVG to LAD had TO, LAD stented w/ BMS x 5.  Patient
   with persistent chest pain during procedure and after reaching floor.
   - Continue GP 2b/3a x 12hrs
   - ASA 325mg x 30 days, then 81mg daily.  Plavix 75mg daily x 3 mos
   - Resume coumadin tonight if patient's INR is subtherapeutic, provided
   hemodynamic stability.
   - Titrate BB to HR 55-65, hold ace for now
   - Cont HD Statin
   - Trend CK/CK-MB
   - Post procedure Plt check
   - EKG in AM
   - Morphine/Nitro for CP
   .
   # PUMP:  TEE (poor echo windows) pre-CABG showed LVEF 25-35%,
   moderately dilated RV cavity. 1+ AI, 1+ MR, trivial TR. Post CABG
   LVEF: 30-40%
   - Continue Isordil
   - ECHO in AM
   - Lasix 40mg [**Hospital1 **]
   .
   # RHYTHM: Currently NSR.  History of paroxysmal a.fibb
   -Restart coumadin in PM pending INR
   -Continue Metoprolol and titrate for rate control
   .
   # Diabetes
   -hold home glipizide
   -ISS
   .
   #HTN
   -holding home nitro patch pending BP
   -BB, Isordil
   .
   FEN:  cardiac, diabetic diet
   ACCESS: PIV- very difficult access
   PROPHYLAXIS:
   -DVT ppx with coumadin
   CODE: FULL for now
   DISPO: CCU
   CONTACT:  [**Name (NI) 376**] [**Name (NI) 2145**] (HCP-step daughter) [**Telephone/Fax (1) 6638**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-12-19**] 02:43 PM
   20 Gauge - [**2190-12-19**] 02:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-21 04:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   STEMI/s/p BMS x 5 to
   LAD
   24 Hour Events:
   Uptitrated BB, captopril.
   Per PCP, [**Name10 (NameIs) **] is on prednisone for COPD and has been chronically.  Had
   been meaning to titrate down to 5 mg.
   Attempted to address code status but patient was delirious o/n.
   Coumadin started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-21**] 04:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 71 (58 - 83) bpm
   BP: 115/61(74) {94/52(65) - 129/76(89)} mmHg
   RR: 28 (21 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GENERAL: Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink
   NECK: Supple with no JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Anteriolateral CTAB
   ABDOMEN: Soft, NT/ND, obese.
   EXTREMITIES: No c/c/e. Bilateral BKA. distal stumps warm.
   Labs / Radiology
   141
                               [image002.gif]
                                     104
                               [image002.gif]
                                     29
   [image004.gif]
   147
                                                                   AGap=12
   [image005.gif]
   3.6
                               [image002.gif]
                                     29
                               [image002.gif]
                                     1.7
   [image007.gif]
   Mg: 2.1
   91
                                                                       6.5
                                                            [image007.gif]
                                    12.8
   [image004.gif]
   212
                 [image008.gif]
   [image004.gif]
                                    39.0
   [image007.gif]
   PT: 19.2
   PTT: 27.9
   INR: 1.8
                            [**2190-12-19**]  05:01 PM
                            [**2190-12-20**]  04:56 AM
   WBC
   6.9
   Hct
   41.7
   Plt
   235
   199
   Cr
   1.3
   1.5
   Glucose
   180
   134
   Other labs: PT / PTT / INR:20.2/27.3/1.9, CK / CKMB /
   Troponin-T:318/22/, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: ECHO: The left atrium is elongated. Left ventricular wall
   thicknesses and cavity size are normal. There is moderate regional left
   ventricular systolic dysfunction with focal severe hypokinesis of the
   distal half of the anterior septum and anterior walls, and the distal
   lateral and distal inferior walls. The apex is mildly aneurysmal
   akinetic. No intravventricular thrombus is seen, but images are
   suboptimal. The remaining segments contract normally (LVEF = 35%). The
   aortic root is mildly dilated at the sinus level. The ascending aorta
   and aortic arch are mildly dilated. The aortic valve leaflets are
   mildly thickened. There is no aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are structurally
   normal. Trivial mitral regurgitation is seen. The pulmonary artery
   systolic pressure could not be determined. There is an anterior space
   which most likely represents a fat pad. IMPRESSION: Moderate regional
   left ventricular systolic dysfunction suggestive of CAD (mid-LAD
   distribution).
   Micro: No growth
   Assessment and Plan
   79 yo male with h/o 3V CABG, s/p balloon angioplasty to OM1 [**4-3**], DM,
   PVD s/p bilateral BKA presents with chest pain and <1mm STEMI in septal
   leads found to have occluded SVG-LAD now s/p 5 BMS.
   # STEMI: CP improving.  CK peaked at 523 on day of admission.  Hospital
   Day #2 EKG with persistent ST elevations, unclear if related to
   aneurysm.  AM EKG pending.  In cath lab, SVG to LAD had TO, LAD stented
   w/ BMS x 5.
   - ASA 325mg and  Plavix 75mg daily
   - Continue coumadin
   - Continue Metoprolol 50mg [**Hospital1 **], increase Captopril to 12.5mg TID,
   switch to long acting in AM
   - Cont HD Statin
   # PUMP:  Chronic CHF, systolic dysfunction.  Euvolemic on exam.  Echo
   with EF of 35%.
   - continue home Lasix 40mg [**Hospital1 **], with goal even I/O
   # RHYTHM: Currently NSR.  History of paroxysmal a.fibb
   -Continue coumadin.  INR 1.8 this AM.
   -Continue Metoprolol 50mg [**Hospital1 **]
   # Diabetes
   -hold home glipizide
   -ISS
   #HTN
   -holding home nitro patch pending BP
   -BB, Isordil, ACE
   FEN:  cardiac, diabetic diet
   ACCESS: PIV- very difficult access
   PROPHYLAXIS:
   -DVT ppx with coumadin
   CODE: FULL for now, will need to readdress today with proxy as patient
   has been increasingly confused.
   DISPO: Transfer to floor, PT consult
   CONTACT:  [**Name (NI) 376**] [**Name (NI) 2145**] (HCP-step daughter) [**Telephone/Fax (1) 6638**]
        1. Acetaminophen 650 mg PO Q6H:PRN  Order date: [**12-19**] @ 1444
   15. Nitroglycerin SL 0.4 mg SL PRN CP  Order date: [**12-19**] @ 1511
   2. Aspirin EC 325 mg PO DAILY  Order date: [**12-19**] @ 1340
   16. Nortriptyline 25 mg PO HS  Order date: [**12-19**] @ 1456
   3. Captopril 6.25 mg PO TID
   Hold for SBP < 100  Order date: [**12-20**] @ 0926
   17. Omeprazole 40 mg PO DAILY  Order date: [**12-19**] @ 1456
   4. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**12-19**] @ 1340
   18. PredniSONE 7.5 mg PO DAILY Start: In am Order date: [**12-19**] @ 1430
   5. Donepezil 5 mg PO HS  Order date: [**12-19**] @ 1431
   19. Ropinirole 1 mg PO QPM  Order date: [**12-19**] @ 1430
   6. Docusate Sodium 100 mg PO BID:PRN  Order date: [**12-19**] @ 1444
   20. Senna 1 TAB PO HS:PRN  Order date: [**12-19**] @ 1444
   7. Ferrous Sulfate 325 mg PO DAILY  Order date: [**12-19**] @ 1432
   21. Simvastatin 80 mg PO DAILY  Order date: [**12-19**] @ 1430
   8. Fluticasone Propionate 110mcg 1 PUFF IH [**Hospital1 **]  Order date: [**12-19**] @
   1430
   22. Thioridazine HCl 100 mg PO QHS  Order date: [**12-19**] @ 1430
   9. Furosemide 40 mg PO BID Start: next scheduled dose Order date: [**12-19**]
   @ 1430
   23. Tolterodine 2 mg PO DAILY Start: In am Order date: [**12-19**] @ 1430
   10. Gabapentin 300 mg PO TID  Order date: [**12-19**] @ 1430
   24. TraMADOL (Ultram) 50 mg PO BID  Order date: [**12-19**] @ 1430
   11. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**12-19**] @ 1430
   25. Warfarin 3 mg PO 3X/WEEK (MO,WE,FR)  Order date: [**12-20**] @ 1127
   12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY
   hold for SBP< 100  Order date: [**12-19**] @ 1426
   26. Warfarin 4 mg PO 4X/WEEK ([**Doctor First Name **],TU,TH,SA)  Order date: [**12-20**] @ 1127
   13. Metoprolol Tartrate 50 mg PO BID
   Please hold for SBP < 100 and HR < 60.  Order date: [**12-20**] @ 1052
   27. Zolpidem Tartrate 10 mg PO HS  Order date: [**12-19**] @ 1430
   14. Mirtazapine 15 mg PO HS  Order date: [**12-19**] @ 1430